US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-bromophenyl)carboxamide [75]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) and commercially available 4-bromobenzoic acid (78 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (102 mg) was added, and the admixture was stirred at room temperature for 17 hours. The reaction mixture was then purified in the same manner as described in Example 51 to obtain 43 mg of the title compound (yield: 52%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-bromobenzoic acid | 78 mg | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 102 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-bromophenyl)carboxamide | 43 mg, yield: 52% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)Br | C24H19BrN2O4
